US05945457
Preparation of Methacryloyladenine (MAD)
All procedural steps and molar ratios were the same as those for the preparation of acryloyladenine, except that methacryloyl chloride was used instead of acryloyl chloride. The yield of MAD was 85%. The IR spectra showed the same bands as the IR spectra of AAD.

reactant | acryloyladenine | C(C=C)(=O)C1=NC(=C2NC=NC2=N1)N | C8H7N5O
reactant | methacryloyl chloride | C(C(=C)C)(=O)Cl | C4H5ClO
product | Methacryloyladenine | C(C(=C)C)(=O)C1=NC(=C2NC=NC2=N1)N | C9H9N5O
